US04086350
To a solution of 1.28 g. (0.01 mol) of p-fluorothiophenol and 2.82 g. (0.01 mol) of 2-iodo-4-chlorobenzoic acid in 20 ml. of pyridine is added 1.3 g. (0.01 mol) of potassium carbonate, with stirring. Additional pyridine is added until solution is clear and then 0.3 g. of cuprous chloride is introduced. The resulting mixture is refluxed overnight, poured into ice-water, stirred and filtered. The aqueous solution is acidified and filtered. The solid is dissolved in 5% sodium bicarbonate solution and this solution is extracted with ether. The aqueous solution is acidified, extracted with ether and the washed, dried extract is concentrated to give 4-chloro-2-(4-fluorophenylthio)-benzoic acid, m.p. 204°-213° C. The latter (6.5 g., 0.023 mol) is heated for one hour with 105 g. of sulfuric acid to obtain 2-fluoro-6-chloro-9-thioxanthone, m.p 222°-224° C.

reactant | p-fluorothiophenol | 0.01 mol | FC1=CC=C(C=C1)S | C6H5FS
reactant | 2-iodo-4-chlorobenzoic acid | 0.01 mol | IC1=C(C(=O)O)C=CC(=C1)Cl | C7H4ClIO2
reactant | potassium carbonate | 0.01 mol | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-chloro-2-(4-fluorophenylthio)-benzoic acid | ClC1=CC(=C(C(=O)O)C=C1)SC1=CC=C(C=C1)F | C13H8ClFO2S
